US04480101
2-Amino-4-chloro-6-difluoromethoxy-pyrimidine
A suspension of 16.4 g of 2-amino-4,6-dichloropyrimidine in 100 ml of 40% sodium hydroxide solution is stirred for 1 hour at a temperature of 95° to 100° C. After the addition of 200 ml of dioxane, there are added at a temperature of 70° to 75° C., within 1 hour, 20 g of gaseous difluoromethane. The organic phase is separated, and concentrated to about 1/5 of its volume; it is then poured into water and the solid precipitate is removed. The yield is 6 g of 2-amino-4-chloro-6-difluoromethoxy-pyrimidine, m.p. 118° to 119° C. (compound No. 1.7).

reactant | 2-amino-4,6-dichloropyrimidine | 16.4 g | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | dioxane | 200 ml | O1CCOCC1 | C4H8O2
reactant | difluoromethane | 20 g | FCF | CH2F2
solvent | sodium hydroxide | 100 ml | [OH-].[Na+]
product | 2-Amino-4-chloro-6-difluoromethoxy-pyrimidine | NC1=NC(=CC(=N1)Cl)OC(F)F | C5H4ClF2N3O
